US07335778B2
400 ml of purified water, 12.85 g of 20% palladium hydroxide on carbon (50% wet), 900 ml of a methanol solution containing 249.5 g of ethyl (5Z)-5-[(3aS,6aR)-1,3-dibenzyl-hexahydro-2-oxo-4H-thieno[3,4-d]imidazol-4-yliden]pentanoate were added successively in this order, and the atmosphere was replaced with 490 kPa hydrogen three times. Moreover, 627 kPa hydrogen pressure was applied at 6.5° C., and the mixture was stirred at 500 rpm. The reaction temperature and the pressure became 92.5° C. and 843 kPa at 50 minutes after initiation of heating, 117° C. and 921 kPa after 4 hours, and 116° C. and 853 kPa after 11 hours, so that hydrogen was charged up to 882 kPa. After 24 hours, the reaction mixture was cooled at 115° C. and 892 kPa, washed with methanol, and the catalyst was filtered off. The filtrate was concentrated, 400 ml of toluene was added to the residue, and replacement and concentration were carried out three times with an outer bath at 65° C. To the above-mentioned residue were added 1206 ml of methanol, 402 ml of water and 53.3 g of sodium hydroxide, the resulting mixture was stirred at 40° C. for 2 hours. To the reaction mixture was added 300 g of 10% aqueous hydrochloric acid, the mixture was neutralized to pH 7, 6 g of activated charcoal was added to the mixture and the resulting mixture was stirred at room temperature for 40 minutes. The reaction mixture was subjected to precoat filtration with 6 g of activated charcoal. Methanol was distilled of under reduced pressure, and 600 ml of ethyl acetate was added. 10% aqueous hydrochloric acid was added to the mixture to carry out extraction (pH of the aqueous layer was 0.7), and the organic layer was washed with 10% brine. The organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and when no ethyl acetate was distilled off, the residue was subjected to replacement with 170 ml of mesitylene and concentration two times to give 170.1 g of (3aS,4S,6aR)-1,3-dibenzyl-hexahydro-2-oxo-4H-thieno[3,4-d]imidazol-4-pentanoic acid as colorless oily product.

reactant | water | 400 ml | O | H2O
reactant | ethyl (5Z)-5-[(3aS,6aR)-1,3-dibenzyl-hexahydro-2-oxo-4H-thieno[3,4-d]imidazol-4-yliden]pentanoate | 249.5 g | C(C1=CC=CC=C1)N1C(N([C@H]/2[C@@H]1CS\C2=C/CCCC(=O)OCC)CC2=CC=CC=C2)=O | C26H30N2O3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 12.85 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 900 ml | CO | CH4O
product | (3aS,4S,6aR)-1,3-dibenzyl-hexahydro-2-oxo-4H-thieno[3,4-d]imidazol-4-pentanoic acid | 170.1 g | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1CS[C@H]2CCCCC(=O)O)CC2=CC=CC=C2)=O | C24H28N2O3S
